US07846915B2
1-Methanesulfonyl-3-methoxy benzene was dissolved in 90 mL glacial acetic acid. 100 mL water was added. A solution of bromine (4.79 g, 30 mmol) in 10 mL acetic acid was added dropwise at 10° C. The stirring was continued at rt for 15 h. The pH of the mixture was adjusted to pH 8 with aqueous NaOH solution, and extracted with EtOAc (3×200 mL) and dried over Na2SO4. The crude compound was purified by column chromatography (SilicaGel 230-400 mesh; 20% EtOAc in hexanes as an eluent) to give 1-bromo-2-methanesulfonyl-4-methoxy benzene (2.4 g, 45%).

reactant | 1-Methanesulfonyl-3-methoxy benzene | CS(=O)(=O)C1=CC(=CC=C1)OC | C8H10O3S
reactant | water | 100 mL | O | H2O
reactant | bromine | 30 mmol, 4.79 g | BrBr | Br2
reactant | NaOH | [OH-].[Na+]
solvent | acetic acid | 90 mL | C(C)(=O)O | C2H4O2
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
product | 1-bromo-2-methanesulfonyl-4-methoxy benzene | 2.4 g, 45% | BrC1=C(C=C(C=C1)OC)S(=O)(=O)C | C8H9BrO3S
